US08541407B2
A solution of 1-(4-chlorophenyl)cyclopropanecarboxylic acid (10.5 g, 53.3 mmol) in toluene (70 mL) was treated successively with triethylamine (15 mL, 106.6 mmol), diphenylphosphorylazide (DPPA) (12.7 mL, 58.6 mmol) and tert-butanol (25 mL, 267 mmol). The reaction mixture was stirred at 80° C. for 20 hours. The mixture was partitioned between ethyl acetate (300 mL) and water (100 mL). The phases were separated and the organic phase was washed with water (80 mL) then brine (100 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 10% ethyl acetate in hexanes). The tert-butyl (1-(4-chlorophenyl)cyclopropyl)carbamate was obtained as a white solid (14 g). LCMS [M+H]: 268.

reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | 53.3 mmol, 10.5 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | triethylamine | 106.6 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 58.6 mmol, 12.7 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 267 mmol, 25 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (1-(4-chlorophenyl)cyclopropyl)carbamate | ClC1=CC=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C14H18ClNO2
